2124-03-01 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2124-2-29**] 10:55 PM low voltage; no pulsus on exam
 MULTI LUMEN - START [**2124-3-1**] 12:31 AM -> R subclavian central line
   placed; position confirmed by CXR
   -tachycardic with CVP's [**6-13**]; bolused 1L IVF x 2
   [**2124-3-1**]  CT scan Abd/Pelvis ->
   IMPRESSION:
   1.  Numerous hypodense hepatic lesions, new since [**11-12**] with appear
   ance
   suspicious for hepatic abscesses.  Necrotic metastases are considered,
   although less likely.
   2.  Peribiliary enhancement consistent with cholangitis.
   3.  New bilateral pleural effusions and adjacent atelectasis.
   4.  New large amount of ascites.
   5.  Questionable thickening of the ascending colon could relate to a se
   [**Doctor Last Name 87**]
   metastasis.
   6.  Subcutaneous abscess adjacent to a jejunal feeding tube entry site.
   7.  Bilateral filling defects in the common femoral veins consistent wi
   th deep
   venous thrombosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2124-3-1**] 01:58 AM
   -Vancomycin
   -Ceftazidime
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels that mental status back to baseline, much
   improved from admission, denies pain, dyspnea
   Flowsheet Data as of  [**2124-3-1**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 122 (94 - 122) bpm
   BP: 99/68(75){77/52(57) - 105/68(75)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 7 (5 - 7)mmHg
   Bladder pressure: 27 (27 - 27) mmHg
                                Total In:
                                                                  5,657 mL
                                                                  2,286 mL
   PO:
                                TF:
   IVF:
                                                                  1,657 mL
                                                                  2,286 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    655 mL
   Urine:
                                                                    195 mL
                                                                    155 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                  5,062 mL
                                                                  1,631 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   7.9 g/dL
   125 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.2 mEq/L
   17 mg/dL
   109 mEq/L
   138 mEq/L
   24.6 %
   2.3 K/uL
        [image002.jpg] lactate 1.5   Anion Gap 6
                             [**2124-3-1**]  03:05 AM
   WBC
   2.3
   Hct
   24.6
   Plt
   135
   Cr
   0.3
   Glucose
   125
   Other labs: PT / PTT / INR:16.5/35.5/1.5, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   [**2-29**] Urine CX: NGTD, [**2-29**] Blood Cx - NGTD
   Assessment and Plan
   55 yo F with metastatic pancreatic cancer fatigue, weakness and altered
   mental status, transferred to MICU for hypotension.
   # Hypotension: Given CT scan findings main differential includes sepsis
   given multiple abscesses vs. decreased venous return [**3-11**] increased
   abdominal pressure from ascites/mass.  Pulmonary embolism (given bilat
   femoral venin thrombosis) and cardiac tamponade (given low voltage on
   EKG) also possible although less likely given low CVP.  Currently on
   levophed with minor BP response to 3L IVF.  Sources of sepsis include
   intrabadominal abscess, J-tube site infections, SBP.  Less likely
   causes include PNA (not seen on CXR), UTI (UA poor sample with 20
   epis), or meningitis (see differential for altered mental status
   below).
   -place central line to measure CVP; bolus IVF for CVP >[**11-19**]
   -continue vanc/ceftaz/flagyl for broad coverage given unknown cause of
   abscesses
   -continue levophed with goal MAP >65 and UOP > 30 cc/hr
   -consider diagnostic paracentesis
   -repeat UA and culture
   -still requiring levophed, add vasopressin and attempt to wean levophed
   as tolerated for MAP >65
   #Low urine output: most likely [**3-11**] combination of sepsis and increased
   intraabdominal pressure causing decreased renal blood flow.
   -will likely need paracentesis to relieve intra-abdominal pressure or
   would expect worsening renal function
   -IVF boluses for CVP >[**11-19**]
   #Bilateral lower edema: R>L, most likely [**3-11**] bilateral femoral DVT
   seen on CT scan.  Contributing factors include hypoalbuminemic state
   and obstructive pelvic mass.
   -lower extremity duplex to confirm DVT
   -start heparin gtt for now given high risk of PE
   #Pancreatic cancer
 metastatic to ovary, underlying malignancy seems
   to be progressing despite treatment.
   -Onc c/s given CT scan supporting disease progression
   #Ascites
 malignant vs exudative, has high risk for both given
   intra-abdominal ca and hepatic involvement by mass lesion.
   -diagnostic/therapeutic tap today
   -covering for sBP with ceftazidime (given ascites, AMS)\
   -IR to mark place
   # Confusion: most likely [**3-11**] hypotension +/- infection, she has had
   improvement in mental status since starting pressors/IVF
s.  Other
   possible cause is medication-related vs meningitis.
   - hold oxycodone and lyrica
   - tx hypotension as above
   - will hold off on viral cultures for now given resolution of mental
   status and identification of source for infection given abscesses on CT
   - follow Neuro-onc recs
   .
   # FTT / Weakness: Weakness and failure to thrive in setting of cancer
   and poor nutritional status.  Albumin of 2.2.
   - replete K and Phos aggressively
   - PT consult
   - continue tube feeds
   - follow Neuro-onc recs, Onc recs
   # J tube leakage/subcutaneous abscess: Pt and husband report persistent
   leakage with abscess seen in surrounding subcutaneous tissue.
   -contacting IR to determine appropriate management of abscess and J
   tube leakage
   # Anemia: Baseline Hct 25-28.  HCT 28.7 in clinic today, now 24.6 in
   setting of significant IVF
s, most likely hemodilutional.  No evidence
   of acute bleeding.
   - send active T&S
   - follow HCT QDay
   # Peripheral neuropathy:
   - hold Lyrica per neuro-onc attending
   .
   # FEN: NPO, hold tube feeds for now given likely IR procedure for J
   tube, replete lytes PRN, fluid boluses for CVP and MAP
   ICU Care
   Nutrition:
   Glycemic Control: none required, monitor serum glucose
   Lines:
   22 Gauge - [**2124-2-29**] 05:45 PM
   Indwelling Port (PortaCath) - [**2124-2-29**] 05:52 PM
   Multi Lumen - [**2124-3-1**] 12:31 AM  R subclavian
   Prophylaxis:
   DVT: on heparin gtt given DVT
   Stress ulcer: PPI
   VAP:  none
   Comments:
   Communication:  [**Name (NI) 61**] [**Name (NI) 62**] (husband) [**Telephone/Fax (1) 63**] cel, [**Telephone/Fax (1) 64**]
   home
   Code status: Code, confirmed with patient and husband
   Disposition: ICU

2124-03-01 18:56:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   Chief Complaint:
   HPI:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2124-2-29**] 05:52 PM
 EKG - At [**2124-2-29**] 07:33 PM
 EKG - At [**2124-2-29**] 10:55 PM
 MULTI LUMEN - START [**2124-3-1**] 12:31 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-1**] 10:30 AM
   Metronidazole - [**2124-3-1**] 06:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium - [**2124-3-1**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-1**] 06:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 96 (79 - 122) bpm
   BP: 107/65(75){75/44(57) - 112/73(79)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 327 (5 - 327)mmHg
   Bladder pressure: 35 (27 - 35) mmHg
   Total In:
                                                                  5,657 mL
                                                                  4,031 mL
   PO:
   TF:
   IVF:
                                                                  1,657 mL
                                                                  4,031 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                  1,230 mL
   Urine:
                                                                    195 mL
                                                                    355 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                  5,062 mL
                                                                  2,801 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Eyes / Conjunctiva: ffff
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   135 K/uL
   142 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   15 mg/dL
   107 mEq/L
   138 mEq/L
   24.6 %
   2.3 K/uL
        [image002.jpg]
                             [**2124-3-1**]  03:05 AM
                             [**2124-3-1**]  05:47 PM
   WBC
   2.3
   Hct
   24.6
   Plt
   135
   Cr
   0.3
   0.4
   Glucose
   125
   142
   Other labs: PT / PTT / INR:16.5/35.5/1.5, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 LIVER ABSCESS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-2-29**] 05:45 PM
   Indwelling Port (PortaCath) - [**2124-2-29**] 05:52 PM
   Multi Lumen - [**2124-3-1**] 12:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2124-03-02 06:48:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   -Code status changed to DNR/DNI
   -s/p following IR procedures: 1.  drainage of anterior abdominal wall
   abscess.
   2.  therapeutic and diagnostic paracentesis, with removal of 4 L serous
   straw colored fluid
   3.  ultrasound-guided aspiration of liver abscess
   - Micro data from Liver abscess shows 4+ PMNs, 4+GNR, 2+ GPR, 2+GPCs
   (cultures pending).  Added Zosyn, so ABX coverage = Vanc/Zosyn/Flagyl
   -LENIs demonstrated Bil LE DVT of bilateral common femoral and
   superficial femoral veins as well as R popliteal vein.  Pt was
   continued on heprin gtt.
   -pt was started on vassopressin and continued on levophed with
   uptitration of dose to 0.1.
   - pressures stable, UOP 40-50 cc/hr, but CVP =7 at ~2AM and was bolused
   250 cc NS x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-1**] 07:35 PM
   Piperacillin - [**2124-3-1**] 11:12 PM
   Metronidazole - [**2124-3-2**] 01:55 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2124-3-1**] 07:32 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: No change
   Flowsheet Data as of  [**2124-3-2**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 69 (68 - 110) bpm
   BP: 107/57(68){75/44(57) - 117/73(79)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 7 (7 - 10)mmHg
   Bladder pressure: 35 (35 - 35) mmHg
   Urine Output ~40cc/hr
   Total In:
                                                                  4,800 mL
                                                                    419 mL
   PO:
                                 TF:
   IVF:
                                                                  4,800 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    385 mL
   Urine:
                                                                    560 mL
                                                                    285 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                  3,365 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: none
   Physical Examination
   Gen: sleeping, awakens during exam but quickly falls back to sleep
   HEENT: dry mucosa
   CV: RRR, S1 S2
   Lungs: bibasilar crackles and dullness, now wheezing
   Abd: soft, NT ND BS+, less distended than prior to paracentesis, watery
   output from around J tube
   Ext: bilateral pitting edema L 1+, R2+ , extremities warm to palpation
   Skin:  warm, intact, dry
   Neurologic: Responds to: voice, Movement: moving all 4 extremities,
   Tone: Not assessed
   Labs / Radiology
   176 K/uL
   7.9 g/dL
   220 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   11 mg/dL
   110 mEq/L
   139 mEq/L
   25.3 %
   2.8 K/uL
        [image002.jpg]  AG: 9
                             [**2124-3-1**]  03:05 AM
                             [**2124-3-1**]  05:47 PM
                             [**2124-3-2**]  03:52 AM
   WBC
   2.3
   2.8
   Hct
   24.6
   25.3
   Plt
   135
   176
   Cr
   0.3
   0.4
   0.5
   Glucose
   125
   142
   220
   Other labs: PT / PTT / INR:20.3/150.0/1.9, ALT / AST:15/14, Alk Phos /
   T Bili:103/0.5, Differential-Neuts:58.9 %, Lymph:30.9 %, Mono:9.8 %,
   Eos:0.2 %, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Ascites Fluid: Prot 1.1 Gluc 142  LDH 57  Alb <1 WBC 26  RBC 405  POLYs
   15% Lymphs 10%  mono
s 75%
   MICRO:
   [**3-1**] Abscess: 4+PMN, 4+GNR, 2+ GPR, 2+GPC
   [**3-1**] Peritoneal fluid: 1+PMN, no microorganisms
   Imaging:
   [**3-1**] Ultrasound
 bilateral occlusive thrombus involving bilateral
   common femoral and superficial femoral veins and R popliteal vein.
   Assessment and Plan
   55 yo F with metastatic pancreatic cancer fatigue, weakness and altered
   mental status, transferred to MICU for hypotension, now with multiple
   liver abscesses, ascites and extensive LE DVT.
   #End-stage metastatic pancreatic cancer
 metastatic to ovary,
   underlying malignancy seems to be progressing despite treatment.  Seen
   by oncologist yesterday and patient and family given very poor
   prognosis with time frame likely of days.
   Currently plan seems to be moving more towards palliative/cmo rather
   than life prolonging measures.  Patient and family would no longer like
   invasive/aggressive treatment.
   # Hypotension:  most likely due to infection in setting of multiple
   liver abscesses and subcutaneous abscess surrounding J tube site.  She
   continues to be dependent on pressor support but current plan is to
   bolus with IVF and then d/c pressors and transfer to the floor with
   palliative care and focus on comfort measures.  Continue antibiotics
   for now to hold infection at bay and allow patient time to spend with
   family.
   #Bilateral lower extremity DVT/edema: continue with heparin gtt for
   time being.
   #Ascites
 transudative, no evidence of SBP, s/p paracentesis.  No
   further management planned.
   # Confusion: most likely [**3-11**] hypotension and infection.  It is possible
   that her mental status may decline once pressors d/c
d.  Will bolus
   with IVF prior to d/c to facilitate transfer to the floor.  Also
   somnolent [**3-11**] ativan which is being given for patient anxiety/comfort.
   -continue ativan prn with understanding that may make her less
   responsive
   # J tube leakage/subcutaneous abscess: s/p drainage of subcutaneous
   abscess; holding all tube feeds given suspected abscess.
   # Anemia: Baseline Hct 25-28, stable
   # Peripheral neuropathy: she continues to deny pain
   - hold Lyrica per neuro-onc attending
   .
   # FEN: holding tube feeds, ok to take by mouth whatever she would like
   for comfort
   ICU Care
   Nutrition:
   Glycemic Control: none required, monitor serum glucose
   Lines:
   22 Gauge - [**2124-2-29**] 05:45 PM
   Indwelling Port (PortaCath) - [**2124-2-29**] 05:52 PM
   Multi Lumen - [**2124-3-1**] 12:31 AM  R subclavian
   Prophylaxis:
   DVT: on heparin gtt given DVT
   Stress ulcer: PPI
   VAP:  none
   Comments:
   Communication:  [**Name (NI) 61**] [**Name (NI) 62**] (husband) [**Telephone/Fax (1) 63**] cel, [**Telephone/Fax (1) 64**]
   home
   Code status : DNR/DNI focus on comfort  likely will be CMO soon
   Disposition: transfer to the floor

2124-03-02 12:16:00 Physician Attending Progress Note
Chief Complaint: Hypotension, fever, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had aspiration of abdominal wall abscess, liver abscess, and ascites.
   Has mixed flora in ascitic fluid gram stain.
   LENI positive bilaterally for clot.
   Started on vasopressin. Continues on levophed to sustain BP. UO good at
   40-50 cc hour. Has received two fluid boluses. CVP has been [**8-17**].
   Afebrile
   24 Hour Events:
 LIVER BIOPSY - At [**2124-3-1**] 05:33 PM
 PARACENTESIS - At [**2124-3-1**] 05:33 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2124-3-1**] 11:12 PM
   Vancomycin - [**2124-3-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-2**] 10:15 AM
   Metronidazole - [**2124-3-2**] 10:45 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2124-3-1**] 07:32 PM
   Other medications:
   colace, MVI, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-2**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 74 (61 - 102) bpm
   BP: 96/59(68){75/44(57) - 117/69(79)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 62.1 kg
   Height: 63 Inch
   CVP: 7 (7 - 327)mmHg
   Total In:
                                                                  4,800 mL
                                                                  1,441 mL
   PO:
   TF:
   IVF:
                                                                  4,800 mL
                                                                  1,441 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    610 mL
   Urine:
                                                                    560 mL
                                                                    510 mL
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                  3,365 mL
                                                                    831 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated, Conjunctiva pale, No(t)
   Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Clear
   anteriorally and laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, J-tube; colonic appearing fluid coming
   from J-tube site
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   176 K/uL
   220 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   11 mg/dL
   110 mEq/L
   139 mEq/L
   25.3 %
   2.8 K/uL
        [image002.jpg]
                             [**2124-3-1**]  03:05 AM
                             [**2124-3-1**]  05:47 PM
                             [**2124-3-2**]  03:52 AM
   WBC
   2.3
   2.8
   Hct
   24.6
   25.3
   Plt
   135
   176
   Cr
   0.3
   0.4
   0.5
   Glucose
   125
   142
   220
   Other labs: PT / PTT / INR:20.3/150.0/1.9, ALT / AST:15/14, Alk Phos /
   T Bili:103/0.5, Differential-Neuts:58.9 %, Lymph:30.9 %, Mono:9.8 %,
   Eos:0.2 %, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 LIVER ABSCESS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
   METABOLIC ACIDOSIS
   Hypotension persists requiring vasopressors. CVP still on low side;
   would give additional fluids. Would utilize lactated Ringers given the
   hyperchloremic acidosis. Antibiotics continue. Oxygenation good on
   nasal oxygen.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   Mental status improved.
   Continues on IV heparin for DVT. No evidence of pulmonary embolism.
   Patient and family discussing possible palliative care and emphasis on
   comfort measures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-2-29**] 05:45 PM
   Indwelling Port (PortaCath) - [**2124-2-29**] 05:52 PM
   Multi Lumen - [**2124-3-1**] 12:31 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: not applicable.
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill